US08975254B2
b) Ethyl 5-(2-((tetrahydro-2H-pyran-2-yl)oxy)propyl)isoxazole-3-carboxylate
Ethyl chlorooximidoacetate (1 g, 6.60 mmol) and 2-(pent-4-yn-2-yloxy)tetrahydro-2H-pyran (3.33 g, 19.80 mmol) were dissolved in diethyl ether (20 ml) and the mixture was stirred vigorously. Triethylamine (0.920 ml, 6.60 mmol) diluted with diethyl ether was added dropwise. The reaction mixture was extracted with water and the organic phase dried with MgSO4, filtered and evaporated. The product was used in the next step without further purifications. LC-MS: [M+1]=284.32.

reactant | Ethyl chlorooximidoacetate | 6.60 mmol, 1 g | CCOC(=O)/C(=N\O)/Cl | C4H6ClNO3
reactant | 2-(pent-4-yn-2-yloxy)tetrahydro-2H-pyran | 19.80 mmol, 3.33 g | CC(CC#C)OC1OCCCC1 | C10H16O2
reactant | Triethylamine | 6.60 mmol, 0.920 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | Ethyl 5-(2-((tetrahydro-2H-pyran-2-yl)oxy)propyl)isoxazole-3-carboxylate | O1C(CCCC1)OC(CC1=CC(=NO1)C(=O)OCC)C | C14H21NO5
